US05688312
N,N'-dodecylene bis-phthalimide was prepared from phthalic anhydride and 1,12-dodecanediamine as follows:

reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 1,12-dodecanediamine | C(CCCCCCCCCCCN)N | C12H28N2
product | N,N'-dodecylene bis-phthalimide | C(CCCCCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C28H32N2O4
